US07714126B2
With a procedure similar to example 16 above, 2-phenyl-5-trifluoromethyl-oxazole-4-carboxylic acid [6-(3-methoxy-propylamino)-pyridin-3-yl]-amide was prepared from 2-phenyl-5-trifluoromethyl-oxazole-4-carboxylic acid and N2-(3-methoxy-propyl)-pyridine-2,5-diamine. LCMS calcd for C20H19F3N4O3 (m/e) 420, obsd 421 (M+H).

reactant | 2-phenyl-5-trifluoromethyl-oxazole-4-carboxylic acid | C1(=CC=CC=C1)C=1OC(=C(N1)C(=O)O)C(F)(F)F | C11H6F3NO3
reactant | N2-(3-methoxy-propyl)-pyridine-2,5-diamine | COCCCNC1=NC=C(C=C1)N | C9H15N3O
product | 2-phenyl-5-trifluoromethyl-oxazole-4-carboxylic acid [6-(3-methoxy-propylamino)-pyridin-3-yl]-amide | COCCCNC1=CC=C(C=N1)NC(=O)C=1N=C(OC1C(F)(F)F)C1=CC=CC=C1 | C20H19F3N4O3
